US07517873B2
A solution of 0.05 g, (0.00017 mole) of (rac)-2-chloro-5,7-dimethyl-9-(3-methyl-butyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-27), 0.044 g, (0.00017 mole) of 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide, 0.049 g, (0.00026 mole) of p-toluenesulfonic acid monohydrate and 4 mL of 2-propanol was heated at 180 degree for 2 hours in a microwave reactor. The reaction mixture was concentrated under reduced pressure. The residue was diluted with dichloromethane and washed twice with saturated sodium bicarbonate solution. The aqueous phase was extracted with dichloromethane. The combined organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (100:0-75:25) to give 0.049 g of (rac)-4-[5,7-dimethyl-9-(3-methyl-butyl)-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-27). HRMS (ES+) m/z Calcd for C28H41N7O2+H [(M+H)+]: 524.3344. Found: 524.3342.

reactant | (rac)-2-chloro-5,7-dimethyl-9-(3-methyl-butyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00017 mole | ClC=1N=CC2=C(N(CC(C(N2C)=O)C)CCC(C)C)N1 | C14H21ClN4O
reactant | 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.00017 mole | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C14H21N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.00026 mole | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4 mL | CC(C)O | C3H8O
product | (rac)-4-[5,7-dimethyl-9-(3-methyl-butyl)-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.049 g | CN1C2=C(N(CC(C1=O)C)CCC(C)C)N=C(N=C2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C28H41N7O3
